US06747022B2
Preparation of 2-(3-aminophenyl)-2-methylpropionic acid hydrochloride
In 50 ml of methanol was dissolved 10.0 g of 2-(4-chloro-3-nitrophenyl)-2-methylpropionic acid. To the resulting mixture was added 1.0 g of 10% palladium carbon. In a hydrogen gas atmosphere, the mixture was stirred at room temperature for 3 hours. The reaction mixture was filtered and the filtrate was concentrated under reduced pressure to obtain 8.84 g of the title compound.

reactant | 2-(4-chloro-3-nitrophenyl)-2-methylpropionic acid | 10.0 g | ClC1=C(C=C(C=C1)C(C(=O)O)(C)C)[N+](=O)[O-] | C10H10ClNO4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium carbon | 1.0 g | [C].[Pd]
product | 2-(3-aminophenyl)-2-methylpropionic acid hydrochloride | 8.84 g | Cl.NC=1C=C(C=CC1)C(C(=O)O)(C)C | InChI=1S/C10H13NO2.ClH/c1-10(2,9(12)13)7-4-3-5-8(11)6-7;/h3-6H,11H2,1-2H3,(H,12,13);1H
